US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]hexane-1,6-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and hexane-1,6-diamine. MS obsd. (ESI+) [(M+H)+] 453, 1H NMR (400 MHz, CD3OD) δ ppm 8.07 (dd, J=1.2, 0.8 Hz, 1 H), 7.97 (s, 1 H), 7.92 (d, J=7.6 Hz, 1 H), 7.80 (d, J=8.8 Hz, 1 H), 7.70 (d, J=1.2 Hz, 1 H), 7.57 (dd, J=7.20, 1.6 Hz, 2 H), 5.91 (s, 1 H), 5.32 (s, 2 H), 4.52 (brs, 2 H), 3.75 (d, J=4.80 Hz, 2 H), 3.31 (d, J=1.60 Hz, 2 H), 2.94 (m, 2 H), 2.45 (s, 3 H), 1.72 (m, 4 H), 1.50 (m, 4 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | hexane-1,6-diamine | C(CCCCCN)N | C6H16N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]hexane-1,6-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCCCCCN)C)=O | C25H32N4O2S
